US09371322B2
Synthesis of 2-(3,4-dimethoxyphenoxyl)ethyl piperidine-2-carboxylate
1-tert-Butyl 2-(2-(3,4-dimethoxyphenoxy)ethyl) piperidine-1,2-dicarboxylate (456 mg, 1.1 mmol), prepared by reacting 1-tert-butyl-piperidine-1,2-dicarboxylate and 4-(2-bromoethoxy)-1,2-dimethoxybenzene in acetone in the presence of potassium carbonate, was dissolved in 10 ml 20% TFA in DCM and was stirred at room temperature for 2 h. The reaction mixture was concentrated in vacuo and used for next step without further purification.

reactant | 1-tert-Butyl 2-(2-(3,4-dimethoxyphenoxy)ethyl) piperidine-1,2-dicarboxylate | 1.1 mmol, 456 mg | N1(C(CCCC1)C(=O)OCCOC1=CC(=C(C=C1)OC)OC)C(=O)OC(C)(C)C | C21H31NO7
reactant | 4-(2-bromoethoxy)-1,2-dimethoxybenzene | BrCCOC1=CC(=C(C=C1)OC)OC | C10H13BrO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
solvent | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(3,4-dimethoxyphenoxyl)ethyl piperidine-2-carboxylate | N1C(CCCC1)C(=O)OCCOC1=CC(=C(C=C1)OC)OC | C16H23NO5
